US07960567B2
2-(4-(4-Amino-2-nitrophenoxy)-2,3-dimethylphenyl)acetic acid (12.4).
Under an N2 atmosphere, 2-(4-hydroxy-2,3-dimethylphenyl)acetic acid (0.780 g, 4.33 mmol) was dissolved in DMSO (29 mL). Cesium carbonate (3.53 g, 10.8 mmol) was added and the reaction was allowed to stir at room temperature for 5 min. 4-Fluoro-3-nitroaniline (0.678 g, 4.33 mmol) was added and the reaction was heated to 80° C. for 2.25 h. The reaction was allowed to cool to room temperature and diluted with water. Citric acid was added to pH 4 and the reaction was extracted with ethyl acetate. The layers were separated and the aqueous layer was washed with additional ethyl acetate. The organics were combined, dried (Na2SO4), filtered, and concentrated in vacuo. Flash column chromatography of the residue, eluting with 0% to 8% methanol in dichloromethane, afforded the title compound. LC-MS ESI (pos.) m/z: 317.2 (M+H).

reactant | 2-(4-hydroxy-2,3-dimethylphenyl)acetic acid | 4.33 mmol, 0.780 g | OC1=C(C(=C(C=C1)CC(=O)O)C)C | C10H12O3
reactant | Cesium carbonate | 10.8 mmol, 3.53 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-Fluoro-3-nitroaniline | 4.33 mmol, 0.678 g | FC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | Citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMSO | 29 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-(4-(4-Amino-2-nitrophenoxy)-2,3-dimethylphenyl)acetic acid | NC1=CC(=C(OC2=C(C(=C(C=C2)CC(=O)O)C)C)C=C1)[N+](=O)[O-] | C16H16N2O5
